US08859596B2
(2E)-1-hydroxyacetone O-tetrahydro-2H-pyran-2-yloxime
To a solution of 1-hydroxypropan-2-one (1 g, 13.5 mmol) and O-(tetrahydro-2H-pyran-2-yl)hydroxylamine (1.9 g, 16.2 mmol) in pyridine (7 mL) and methanol (20 mL) was added acetic acid (0.23 mL, 4 mmol) and the resulting mixture was stirred at room temperature for 12 hours. The mixture was then concentrated under reduced pressure and the residue was treated with a saturated solution of NaHCO3 and extracted with ethyl acetate. The organic layer was washed with brine, dried with MgSO4 and concentrated under reduced pressure. The residue was purified by chromatography (EtOAc-Hexanes 2:1) to afford 1.8 g of the title compound. MS (DCI/NH3) m/z 174 (M+H)+.

reactant | 1-hydroxypropan-2-one | 13.5 mmol, 1 g | OCC(C)=O | C3H6O2
reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 16.2 mmol, 1.9 g | O1C(CCCC1)ON | C5H11NO2
reactant | acetic acid | 4 mmol, 0.23 mL | C(C)(=O)O | C2H4O2
solvent | pyridine | 7 mL | N1=CC=CC=C1 | C5H5N
solvent | methanol | 20 mL | CO | CH4O
product | (2E)-1-hydroxyacetone O-tetrahydro-2H-pyran-2-yloxime | 1.8 g | O1C(CCCC1)O\N=C(\CO)/C | C8H15NO3
